US09145380B2
b) 2-Amino-5-phenoxybenzenesulfonamide
A mixture of 7-phenoxy-1,1-dioxo-1,4-dihydro-2-H-benzo[1,2,4]thiadiazin-3-one (18.0 g, 61.8 mmol) in aqueous H2SO4 (50% v/v, 1 L) was heated at 105° C. for 7 h. The clear solution was then cooled to 0° C. and neutralized using 5N NaOH. The product was extracted with ethyl acetate. The combined extracts were washed with water and concentrated under reduced pressure. The crude product was purified by flash column chromatography using ethyl acetate/hexane (1:1) to afford the title compound (4.0 g, 24%).

reactant | 7-phenoxy-1,1-dioxo-1,4-dihydro-2-H-benzo[1,2,4]thiadiazin-3-one | 61.8 mmol, 18.0 g | O(C1=CC=CC=C1)C1=CC2=C(NC(NS2(=O)=O)=O)C=C1 | C13H10N2O4S
reactant | NaOH | 5N | [OH-].[Na+]
solvent | H2SO4 | 1 L | OS(=O)(=O)O | H2O4S
product | 2-Amino-5-phenoxybenzenesulfonamide | 4.0 g, 24% | NC1=C(C=C(C=C1)OC1=CC=CC=C1)S(=O)(=O)N | C12H12N2O3S
